US07989497B2
Step 5: (R)-1-(tetrahydrofuran-2-yl)propan-1-amine
A solution of (2R)-2-(1-azidopropyl)tetrahydrofuran (1.9 g, 12.24 mmol, 1 equiv) in EtOH/AcOH (105 ml of a 100:5 mixture) and 10% Pd/C CATCart (12.24 mmol, 1 equiv) was placed under a positive pressure of hydrogen for 8 hours. The product mixture was concentrated in vacuo and diluted with DCM. The mixture was passed down a 10 g SCX-2 cartridge (resin loading 0.67 mmol/g), eluting with methanol followed by 2M ammonia in EtOH. The appropriate fractions were concentrated in vacuo to afford the title compound. 1.0 (3H, t, CH3), 1.3 (1H, m), 1.6 (2H, m), 1.9 (3H, m), 2.6 (0.5H, m, CHNH2 of one diastereomer), 2.8 (0.5H, m, CHNH2 of one diastereomer), 3.6 (1H, m, CHO), 3.75 (1H, m, CHO), 3.85 (1H, m, CHO).

reactant | (2R)-2-(1-azidopropyl)tetrahydrofuran | 12.24 mmol, 1.9 g, 1 equiv | N(=[N+]=[N-])C(CC)[C@@H]1OCCC1 | C7H13N3O
reactant | hydrogen | [H][H] | H2
solvent | EtOH AcOH | CCO.CC(=O)O
catalyst | Pd/C | [Pd] | Pd
product | (R)-1-(tetrahydrofuran-2-yl)propan-1-amine | O1C(CCC1)[C@@H](CC)N | C7H15NO
